US05338755
A) 2-[N-(4-Cyanophenylsulfonyl)amino]-2',5-dichlorobenzophenone
10 g of 2-amino-2',5-dichlorobenzophenone and 7.7 g of 4-cyanophenylsulfonyl chloride are heated in pyridine at 100° C. for 48 hours in the presence of 4.6 g of DMAP, the mixture is evaporated to dryness, water and ethyl acetate are added, the organic phase is washed with dilute hydrochloric water, water and an aqueous solution of sodium chloride and dried over magnesium sulfate and the solvent is evaporated off under vacuum. The precipitate formed is filtered off and then recrystallized twice from a DCM/isopropyl ether mixture to give the expected product.

reactant | 2-amino-2',5-dichlorobenzophenone | 10 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | 4-cyanophenylsulfonyl chloride | 7.7 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 4.6 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[N-(4-Cyanophenylsulfonyl)amino]-2',5-dichlorobenzophenone | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C20H12Cl2N2O3S
